Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin / Penicillins / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___
 
___ Complaint:
RLQ abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old lady with hx of RYGB in ___ (with revisional bypass 
in ___ c/b G-J ulcer s/p resection of gastrojejunostomy and 
anastomotic ulcer in ___ (s/p scope in ___ that showed ulcer 
was discharged home on PPI), hx of portal vein thrombosis not on 
AC, upper GIB, diverticulosis, s/p splenectomy in ___ for 
splenic artery aneurysm, and anemia who presents with right 
lower quadrant abdominal pain. 

Patient reports that she has been having several days of blood 
spotting rectally, then has developed right lower quadrant 
abdominal pain and yesterday developed a fever to 101.0 
Fahrenheit. She reports the pain on the right side is constant, 
worse with motion and touching it. Denies any dysuria, 
hematuria, flank pain, vaginal discharge. Endorses nausea 
associated with the pain. Denies vomiting. Pt reports ongoing 
low rate rectal bleeding today. Has history of transfusions ___ 
diverticular bleeding. Pt usually has HCT >30 per her report. 
 
 In the ED, initial vitals were: 98.1 152/68 96 18 100%RA  
 - Exam notable for: none documented  
 - Labs notable for:  
 CBC 7.2>9.4/___.3<429 MCV 81  
 normal chem 7  
 lactate 1.8  
 UA with trace protein, negative beta-HCG  
 - Imaging was notable for:  

 CT Abd/pelvis with contrast prelim read  
 1. The appendix is not definitively seen on this exam. However, 
there is no secondary signs concerning for appendicitis 
including fat stranding, perforation, or abscess formation.  
 2. Prominent mesenteric lymph nodes are noted in the right 
lower quadrant, measuring up to 0.9 cm, which can be seen in 
mesenteric adenitis.  
 - Patient was given:  
 morphine 4mg x3, Zofran 4mg IV x2, 1L NS, pantoprazole 40mg PO, 
acetaminophen 1000mg PO  
 - Vitals prior to transfer: 98.0 120/56 74 14 96%RA  

Upon arrival to the floor, patient reports onset of BRBPR and 
clots 3 days ago, temperature to 100.0 at home 2 days ago along 
with dull RLQ pain that fluctuates in intensity, peaking and 
becoming sharp every hour lasting ___ minutes. Yesterday, she 
endorses nausea and dry heaving, no emesis.  

 
Past Medical History:
- H/o roux-en-Y gastric bypass c/b gastrojejunal ulcer  
- Diverticulosis  
- H/o DVT  
- S/p splenectomy ___ for splenic artery aneurysm  
- S/p hysterectomy ___  
- Iron deficiency anemia - gets q4week iron infusions at 
___  
 
Social History:
___
Family History:
 ___ disease Maternal Grandmother    
 Colon cancer Father    
 Hypertension Father    
 Coronary artery disease Father  
 ___ disease Paternal Grandfather    
 Colon cancer Paternal Grandmother    
 Diabetes Paternal Grandmother    
 Hypertension Maternal Grandfather    
 Ovarian cancer Maternal Aunt    
 Diabetes Maternal Aunt    
 Breast cancer Paternal Aunt    
 Hypertension Paternal Aunt    
 Coronary artery disease Paternal Aunt    
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===========================
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
Neck: Supple. JVP not elevated. no LAD  
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

PHYSICAL EXAM ON DISCHARGE:
===========================
VS: 98.0 128/72 74 18 98% RA
General: Alert, oriented, no acute distress; mildly tearful at 
times
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
Neck: Supple. No cervical lymphadenopathy.
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, mildly tender to palpation in RLQ (more so when 
pressing w/ hand than with stethoscope), non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII grossly intact, moves all 4 extremities 
symmetrically and with purpose

 
Pertinent Results:
LAB RESULTS ON ADMISSION:
=========================
___ 10:30PM BLOOD WBC-7.2 RBC-3.37* Hgb-9.4* Hct-27.3* 
MCV-81* MCH-27.9 MCHC-34.4 RDW-19.3* RDWSD-57.1* Plt ___
___ 10:30PM BLOOD Neuts-60 Bands-0 ___ Monos-3* Eos-2 
Baso-2* ___ Myelos-0 AbsNeut-4.32 AbsLymp-2.38 
AbsMono-0.22 AbsEos-0.14 AbsBaso-0.14*
___ 10:30PM BLOOD Plt Smr-HIGH Plt ___
___ 10:30PM BLOOD Glucose-76 UreaN-13 Creat-0.5 Na-139 
K-3.7 Cl-104 HCO3-22 AnGap-17
___ 10:30PM BLOOD Albumin-3.5 Mg-1.9 Iron-18*
___ 10:30PM BLOOD calTIBC-360 Ferritn-8.5* TRF-277
___ 11:22PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-19
___ 11:22PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:22PM URINE Color-Yellow Appear-Hazy Sp ___
___ 11:22PM URINE UCG-NEGATIVE

LAB RESULTS ON DISCHARGE:
=========================
___ 10:04AM BLOOD WBC-7.7 RBC-3.48* Hgb-9.5* Hct-29.6* 
MCV-85 MCH-27.3 MCHC-32.1 RDW-19.8* RDWSD-61.5* Plt ___
___ 10:04AM BLOOD Plt ___
___ 10:30PM BLOOD ALT-26 AST-42* LD(LDH)-174 AlkPhos-101 
TotBili-<0.2

RADIOLOGY:
==========
CT ABDOMEN/PELVIS WITH CONTRAST ___
  
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates patchy heterogeneous 
enhancement, which is nonspecific but can be seen in underlying 
hepatic pathology. There is no evidence of focal lesions. There 
is mild central biliary prominence. no evidence of intrahepatic 
or extrahepatic biliary dilatation. The gallbladder is within 
normal limits. The portal vein is attenuated and diminuitive. 
There is a large varix which appears to shunt between the IMV 
and the IVC. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation. There is no peripancreatic stranding. 
  
SPLEEN: The spleen is resected. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is a 1.3 cm hypodense lesion in the 
right upper renal pole, likely simple cysts. There is no 
evidence of focal renal lesions or hydronephrosis.  There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: Patient is status post Roux-en-Y gastric 
bypass. Small 
bowel loops demonstrate normal caliber, wall thickness, and 
enhancement 
throughout. The colon and rectum are within normal limits. The 
appendix is 
not definitively seen. However, there is no secondary signs of 
appendicitis including fat stranding, abscess formation, or 
perforation. Prominent lymph nodes are noted in the right lower 
quadrant, measuring up to 0.9 cm (series 601b: Image 32), which 
is of uncertain etiology but can be seen in mesenteric adenitis. 

  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The uterus is resected. There is no adnexal 
abnormality. 
  
LYMPH NODES: There is no retroperitoneal lymphadenopathy. As 
mentioned above, prominent mesenteric lymph nodes are seen in 
the right lower quadrant, measuring up to 0.9 cm. There is no 
pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm. No 
atherosclerotic disease is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. There is transitional sacralization of the L5 
vertebrae. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:  
1. The appendix is not definitively seen on this exam. However, 
there is no secondary signs concerning for appendicitis 
including fat stranding, 
perforation, or abscess formation. 
2. The liver demonstrates patchy and heterogeneous enhancement 
with possible stigmata of portal hypertension including a 
prominent large varix, which is concerning for underlying 
hepatic pathology. Recommend further evaluation of the liver 
findings with MRI. 
3. Prominent mesenteric lymph nodes are noted in the right lower 
quadrant, 
measuring up to 0.9 cm. 
4. A right upper renal pole 1.3 cm cyst is of intermediate 
density and 
incompletely characterized on this exam, for which further 
follow up with 
renal ultrasound is recommended. 
  
RECOMMENDATION(S): Consider nonemergent renal ultrasound for 
further 
evaluation of the right upper renal pole cyst. 
Recommend further evaluation of the liver findings with MRI. 
  

 
Brief Hospital Course:
___ with history of roux-en-y gastric bypass, diverticulosis, 
who presents with 3 days of RLQ pain and reports of BRBPR of 
unclear etiology. 

# RLQ abdominal pain
# BRBPR
Unclear etiology, although patient does have history of 
diverticulosis and shares that this is in same location as prior 
episodes of abdominal pain. She has had recent endoscopies (EGD 
___ with smaller gastrogejunal anastomosis ulceration 
compared to prior; ___ flex sig with diverticulosis; 
___ colonoscopy with diverticulosis but otherwise normal). 
This admission, CT abdomen/pelvis without acute pathology to 
explain symptoms, though with nonspecific 0.9 cm mesenteric 
lymphadenopathy. Digital rectal exam was performed in house, 
without any evidence of blood. H/H stable throughout stay with 
Hgb of 9.5 at discharge, actually higher compared to recent 
baseline in ___ at ___ of 8.8. She was able to tolerate 
regular diet at discharge with pain spontaneously improved and 
controlled on acetaminophen.

# Question of chronic liver disease: Of note, on initial CT A/P 
patient was noted to have patchy and heterogeneous enhancement 
of liver with possible stigmata of portal hypertension including 
large varix which appears to shunt between the IMV and the IVC. 
Prior CT from ___ in ___ did note dilated pelvic varices. 
LFTs WNL, albumin WNL. Please consider follow up MRI as an 
outpatient for further characterization.

CHRONIC ISSUES:
===============
# Microcytic anemia: Iron studies c/w iron deficiency with 
ferritin 8.5. H/H at baseline throughout stay. Patient reports 
getting IV iron therapy q2-4 weeks, last 4 weeks ago at 
___ (doesn't tolerate PO iron).
# Thrombocytosis: Chronic, stable. ___ be reactive in setting of 
anemia. 
# Concern for narcotic use disorder: Of note, in the past, there 
has been significant concern for narcotic use disorder. Per last 
___ discharge summary ___: "Discharge summary from ___ 
notes that there was "c/f factitious disorder given patient 
reported numerous episodes of hematemesis and hematochezia which 
were all non-witnessed by medical staff, and with stable 
hematocrit... Noted to be somnolent on exam on hospital day 1, 
room and belongings searched by RN and security with patient's 
permission given concern for surreptitious use of home narcotics 
(consent was witnessed by this provider). Among belongings, 
staff found several IV flushes, a syringe, pill cutter, pill 
crusher, Ativan bottle (empty), and tizanidine. Given discovery 
of IV flushes and syringe, there was suspicion of patient 
drawing blood off of IV and putting in both urine and stool."  
Discharge summary from ___ also states "It is the belief of 
her medical team that opioids should not be prescribed nor given 
by the ED or the medical team unless new data or imaging shows 
anatomical or chemical abnormalities". "  

During her stay with us, she received IV morphine 4 mg x 3 in 
the ED but pain improved and was controlled with Tylenol while 
on the floor. She shared that she is not interested in being on 
opioids.

TRANSITIONAL ISSUES:
====================
[] Patient will require outpatient MRI for further evaluation of 
liver findings
[] CT also with incidental finding of right upper renal pole 1.3 
cm cyst, consider outpatient renal ultrasound

# CODE: Full (presumed) 
# CONTACT: husband, ___ ___ 

Greater than 30 minutes were spent on this patient's discharge 
day management.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acarbose 100 mg PO TID 
2. Acetaminophen 500 mg PO BID:PRN Pain - Mild 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Esomeprazole 40 mg Other BID 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Nortriptyline 50 mg PO QHS 
8. Polyethylene Glycol 17 g PO DAILY 
9. Riboflavin (Vitamin B-2) 25 mg PO DAILY 
10. Sucralfate 1 gm PO QID 
11. Nortriptyline 25 mg PO QAM 
12. BusPIRone 30 mg PO DAILY:PRN anxiety 
13. Cal-Citrate (calcium citrate-vitamin D2) 250-100 mg-unit 
oral DAILY 

 
Discharge Medications:
1.  Acarbose 100 mg PO TID  
2.  Acetaminophen 500 mg PO BID:PRN Pain - Mild  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
4.  BusPIRone 30 mg PO DAILY:PRN anxiety  
5.  Cal-Citrate (calcium citrate-vitamin D2) 250-100 mg-unit 
oral DAILY  
6.  Cyanocobalamin 1000 mcg PO DAILY  
7.  Esomeprazole 40 mg Other BID  
8.  Lidocaine 5% Patch 1 PTCH TD QAM  
9.  Nortriptyline 50 mg PO QHS  
10.  Nortriptyline 25 mg PO QAM  
11.  Polyethylene Glycol 17 g PO DAILY  
12.  Riboflavin (Vitamin B-2) 25 mg PO DAILY  
13.  Sucralfate 1 gm PO QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
RLQ abdominal pain of unclear etiology
Diverticulosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

You came to us because of days of lower right side abdominal 
pain and concern for bright red blood from your rectum. While 
you were here, we performed a CT scan of your abdomen which did 
not provide us with an explanation for your abdominal pain. As 
we discussed, it did have incidental findings of possible liver 
disease and some enlarged lymph nodes, and you will need further 
imaging as an outpatient. We performed a rectal exam which 
fortunately did not show any blood, and your blood counts were 
stable from your baseline in ___. 
Your abdominal pain improved, and you were able to tolerate a 
regular diet. 
Hence, we agreed that it was safe for you to go home and 
recuperate at home. 

We did not make any changes to your medications. 
Please follow up with your primary care doctor and GI doctor as 
below.

Please take care, we wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___